US07683091B2
N-({5-[(1,1′-Biphenyl-4-ylsulfonyl)amino]-1H-indol-1-yl}acetyl)-L-phenylalanine
The title compound was prepared from ethyl N-[(5-nitro-1H-indol-1-yl)acetyl]-L-phenylalaninate and biphenyl-4-sulfonyl chloride following the procedures of Example 10 Step 4 & Step 5: MS (ESI) m/z 554; MS (ESI) m/z 552

reactant | ethyl N-[(5-nitro-1H-indol-1-yl)acetyl]-L-phenylalaninate | [N+](=O)([O-])C=1C=C2C=CN(C2=CC1)CC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC | C21H21N3O5
reactant | biphenyl-4-sulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C1=CC=CC=C1 | C12H9ClO2S
product | N-({5-[(1,1′-Biphenyl-4-ylsulfonyl)amino]-1H-indol-1-yl}acetyl)-L-phenylalanine | C1(=CC=C(C=C1)S(=O)(=O)NC=1C=C2C=CN(C2=CC1)CC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)C1=CC=CC=C1 | C31H27N3O5S
